US04920132
A mixture of 3-(2-quinolinylmethyloxy)phenol (2.51 g, 0.01 mol), 1.85 g (0.01 mol) of methyl 3-chloromethyl benzoate, and 1.5 g of potassium carbonate in 30 ml of DMF is heated at 50° C. overnight. The reaction mixture is poured into water, extracted with ethyl acetate and the organic solution separated, dried and evaporated to dryness. Recrystallization from ethyl acetate gives methyl 3-(3-(2-quinolinylmethyloxy)phenoxymethyl)benzoate. (M.P. 93°-94° C.)

reactant | 3-(2-quinolinylmethyloxy)phenol | 0.01 mol, 2.51 g | N1=C(C=CC2=CC=CC=C12)COC=1C=C(C=CC1)O | C16H13NO2
reactant | potassium carbonate | 1.5 g | C([O-])([O-])=O.[K+].[K+]
reactant | water | O | H2O
reactant | DMF | 30 ml | CN(C)C=O | C3H7NO
product | methyl 3-(3-(2-quinolinylmethyloxy)phenoxymethyl)benzoate | N1=C(C=CC2=CC=CC=C12)COC=1C=C(OCC=2C=C(C(=O)OC)C=CC2)C=CC1 | C25H21NO4
